US08420647B2
3-{2,5-Dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoylamino}-propionic acid ethyl ester
The title compound was prepared in analogy to Example 29, from 2,5-dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoic acid and beta-alanine ethylester hydrochloride (commercially available, CAS RN 4244-84-2). Colorless foam (73%). MS (ESI): m/z=597.169 [M+H]+.

reactant | 2,5-dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)OC1=CC(=NC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)C)Cl | C25H21Cl2N3O4
reactant | beta-alanine ethylester hydrochloride | Cl.C(C)OC(CCN)=O
product | 3-{2,5-Dichloro-4-[5-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-2-methyl-pyridin-4-yloxy]-benzoylamino}-propionic acid ethyl ester | C(C)OC(CCNC(C1=C(C=C(C(=C1)Cl)OC1=CC(=NC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)C)Cl)=O)=O | C30H30Cl2N4O5
